US09303023B2
N-(1-(2-((4,6-dimethoxypyrimidin-2-yl)(ethyl)amino)ethyl)-1H-pyrazol-4-yl)-5-(m-tolyl)oxazole-4-carboxamide
To an ice-cooled solution of N-(1-(2-((4,6-dimethoxypyrimidin-2-yl)amino)ethyl)-1H-pyrazol-4-yl)-5-(m-tolyl)oxazole-4-carboxamide (80 mg, 0.178 mmol) in DMF (1 mL) was added NaH (12 mg, 0.27 mmol). The icebath was removed and the mixture was stirred for 40 min at rt, then 1-bromo ethane (20 uL, 0.25 mmol) was added and stirred for 18 h at rt. To the reaction mixture was added few drops of water and directly purified by prep. HPLC. LC-MS conditions D: tR=1.19 min, [M+H]+=478.3

reactant | N-(1-(2-((4,6-dimethoxypyrimidin-2-yl)amino)ethyl)-1H-pyrazol-4-yl)-5-(m-tolyl)oxazole-4-carboxamide | 0.178 mmol, 80 mg | COC1=NC(=NC(=C1)OC)NCCN1N=CC(=C1)NC(=O)C=1N=COC1C=1C=C(C=CC1)C | C22H23N7O4
reactant | NaH | 0.27 mmol, 12 mg | [H-].[Na+]
reactant | 1-bromo ethane | 0.25 mmol, 20 uL | BrCC | C2H5Br
reactant | water | O | H2O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-(1-(2-((4,6-dimethoxypyrimidin-2-yl)(ethyl)amino)ethyl)-1H-pyrazol-4-yl)-5-(m-tolyl)oxazole-4-carboxamide | COC1=NC(=NC(=C1)OC)N(CCN1N=CC(=C1)NC(=O)C=1N=COC1C=1C=C(C=CC1)C)CC | C24H27N7O4
